US09302989B2
N-(4-{[(3S)-tetrahydrofuran-3-ylmethyl]carbamoyl}phenyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide
The title compound was prepared as described in Example 1C, substituting (S)-(tetrahydrofuran-3-yl)methanamine for 3-phenylpropan-1-amine and 4-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)benzoic acid for 4-(isoindoline-2-carboxamido)benzoic acid. 1H NMR (300 MHz, DMSO-d6) δ 8.64 (s, 2H), 8.61 (s, 1H), 8.50 (d, J=5.0 Hz, 1H), 8.38 (t, J=5.7 Hz, 1H), 7.81-7.74 (m, 2H), 7.69-7.62 (m, 2H), 7.44 (d, J=5.1 Hz, 1H), 4.86-4.79 (m, 4H), 3.80-3.66 (m, 2H), 3.67-3.56 (m, 1H), 3.47 (dd, J=8.5, 5.3 Hz, 1H), 3.21 (dt, J=13.2, 5.8 Hz, 1H), 2.01-1.86 (m, 1H), 1.67-1.53 (m, 1H); MS (ESI(+)) m/e 367 (M+H)+.

reactant | 3-phenylpropan-1-amine | C1(=CC=CC=C1)CCCN | C9H13N
reactant | 4-(2,3-dihydro-1H-pyrrolo[3,4-c]pyridine-2-carboxamido)benzoic acid | C1N(CC=2C=NC=CC21)C(=O)NC2=CC=C(C(=O)O)C=C2 | C15H13N3O3
reactant | 4-(isoindoline-2-carboxamido)benzoic acid | C1N(CC2=CC=CC=C12)C(=O)NC1=CC=C(C(=O)O)C=C1 | C16H14N2O3
product | N-(4-{[(3S)-tetrahydrofuran-3-ylmethyl]carbamoyl}phenyl)-1,3-dihydro-2H-pyrrolo[3,4-c]pyridine-2-carboxamide | O1C[C@@H](CC1)CNC(=O)C1=CC=C(C=C1)NC(=O)N1CC=2C=NC=CC2C1 | C20H22N4O3
